US07208493B2
2-Benzo[1,3]dioxol-5-yl-N-[2-(1H-indol-2-yl)-phenyl]-acetamide
Prepared from 2-(2-aminophenyl) indole and 3,4-(methylenedioxy) phenylacetic acid in 55% yield. The product was purified by crystallization from acetonitrile. 100% Purity by LC/MS (230 DAD), Mass-spec [M+H+]=371, 1H NMR (MeOH-d4): 3.61 s (2H), 5.82 s (2H), 6.20 s (1H), 6.66 d, 8 Hz (1H), 6.74 dd, 8.1 Hz (1H), 6.76 d, 1 Hz (1H), 7.03 t, 8 Hz (1H), 7.12 t, 8 Hz (1H), 7.25 t, 8 Hz (1H), 7.33–7.36 m (2H), 7.48 d, 8 Hz (1H), 7.52 d, 8 Hz (1H), 7.99 d, 8 Hz (1H).

reactant | 2-(2-aminophenyl) indole | NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H12N2
reactant | 3,4-(methylenedioxy) phenylacetic acid | C1OC2=C(O1)C=C(C=C2)CC(=O)O | C9H8O4
product | 2-Benzo[1,3]dioxol-5-yl-N-[2-(1H-indol-2-yl)-phenyl]-acetamide | 55% yield | O1COC2=C1C=CC(=C2)CC(=O)NC2=C(C=CC=C2)C=2NC1=CC=CC=C1C2 | C23H18N2O3
